US05025031
Sulfamic acid 2-(4-bromophenoxy)ethyl ester
The title compound was prepared by the procedures of Example 16 from sulfamoyl chloride and 2-(4-bromophenoxy)ethanol as a white solid, mp 134°-137° C., in 69% yield.

reactant | sulfamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | 2-(4-bromophenoxy)ethanol | BrC1=CC=C(OCCO)C=C1 | C8H9BrO2
product | Sulfamic acid 2-(4-bromophenoxy)ethyl ester | 69% yield | BrC1=CC=C(OCCOS(N)(=O)=O)C=C1 | C8H10BrNO4S
